US06174898B1
(R)-1-(2-((2-(2-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride
(R)-1-(2-((2-(2-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester (4.1 g, 0.0096 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (100 ml) and 18 N sodium hydroxide solution (10 ml) was introduced. After stirring the solution at room temperature for 1 h water (500 ml) was added, and the solution was washed with diethyl ether (2×100 ml). pH of the aqueous phase was adjusted to 1 using 2 N hydrochloric acid solution and extracted with dichloromethane (4×200 ml). The combined extracts was dried (MgSO4), evaporated and the residue was crystallized from toluene/trace methanol to provide the title compound (3.47 g, 87%) as a white crystalline solid.

reactant | (R)-1-(2-((2-(2-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCOC=C(C1=C(C=CC=C1)C)C1=C(C=CC=C1)Cl | C25H30ClNO3
reactant | sodium hydroxide | 18 N, 10 ml | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (R)-1-(2-((2-(2-Chlorophenyl)-2-(2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride | 3.47 g, 87% | Cl.ClC1=C(C=CC=C1)C(=COCCN1C[C@@H](CCC1)C(=O)O)C1=C(C=CC=C1)C | InChI=1S/C23H26ClNO3.ClH/c1-17-7-2-3-9-19(17)21(20-10-4-5-11-22(20)24)16-28-14-13-25-12-6-8-18(15-25)23(26)27;/h2-5,7,9-11,16,18H,6,8,12-15H2,1H3,(H,26,27);1H/t18-;/m1./s1
